US08703784B2
Step 5: Preparation of 3-(6-fluoroquinolin-3-yl)-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine
To 3-iodo-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (0.14 g, 0.21 mmol) was added 6-fluoroquinoline boronate (0.11 g, 0.42 mmol), K2CO3 (87 mg, 0.63 mmol), PdCl2(dppf).CH2Cl2 (18 mg, 0.02 mmol), dioxane (4 ml) and H2O (1 ml). The resulting mixture was heated at 100° C. for 2 hours, at which time LC/MS analysis confirmed full consumption of starting material. On cooling, the solvent was rotoevaporated, and the crude was redissolved in DCM (40 ml), washed with water (1×5 ml), brine (1×5 ml), dried over MgSO4. Solvent was removed in vacuo and the residue was purified by column chromatography on silica gel. Elution with MeOH/EtOAC (0-20%) gave desired product, 3-(6-fluoroquinolin-3-yl)-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (84 mg, 60%).

reactant | 3-iodo-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 0.21 mmol, 0.14 g | IC=1C=NN2C1N=C(C=C2N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)C(C)NC2CCOCC2 | C25H46IN5O3Si2
reactant | 6-fluoroquinoline boronate | 0.42 mmol, 0.11 g | B(O)O.FC=1C=C2C=CC=NC2=CC1
reactant | K2CO3 | 0.63 mmol, 87 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.02 mmol, 18 mg | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 1 ml | O | H2O
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 3-(6-fluoroquinolin-3-yl)-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 84 mg, 60% | FC=1C=C2C=C(C=NC2=CC1)C=1C=NN2C1N=C(C=C2N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)C(C)NC2CCOCC2 | C34H51FN6O3Si2
